US05679689
O. 1,2,3,7a-Tetrahydro-isoindol-3a-ylamine (1-amino-8-azabicyclo[4.3.0]nona-2,4-diene)
Analogously to Step F, 1.4 g (7.2 mmol) of methyl 1-amino-8-azabicyclo[4.3.0]nona-2,4-diene-8-carboxylate are hydrolysed using 4 g of Ba(OH)2.8H2O in 20 ml of water and worked up accordingly. Yield: 0.6 g (61% of theory), boiling point: 65° C./0.1 mbar.

reactant | methyl 1-amino-8-azabicyclo[4.3.0]nona-2,4-diene-8-carboxylate | 7.2 mmol, 1.4 g | NC12C=CC=CC2CN(C1)C(=O)OC | C10H14N2O2
solvent | water | 20 ml | O | H2O
product | 1,2,3,7a-Tetrahydro-isoindol-3a-ylamine | C1NCC2(C=CC=CC12)N | C8H12N2
